data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1309,1435,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([NH+:17]=[C:18]([CH3:19])[C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:23]([CH3:24])=[O:25])[NH:17][C:18]2([CH3:19])[C:20]([CH3:21])=[O:22],water,298.15,25.15920207456887,-19.038432224407185
533,582,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1.[N:13]#[C:14][CH-:15][N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[C:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)=[N:16][CH:15]1[C:14]#[N:13],water,298.15,14.737326715716932,-63.13875582459321
4022,4607,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([CH3:19])[n+:20]1[CH3:21]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]1([C:12]([CH3:11])=[O:13])[O:15][C:16](=[O:17])[C:18]2([CH3:19])[N:20]1[CH3:21],water,298.15,28.10813326950657,0.0166135543991305
1746,1933,[CH3:15][C:16](=[O:17])[C:18](=[NH+:19][C-:20]([CH3:21])[CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:18]([C:16]([CH3:15])=[O:17])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:19][C:20]2([CH3:21])[CH3:22],water,298.15,16.213274883878643,-38.742316604911366
2310,2566,[CH3:19][NH:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([C:26]#[N:27])[C:28]#[N:29])[C:30]([CH3:31])=[O:32].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([O:9][CH3:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([O:9][CH3:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]([C:26]#[N:27])([C:28]#[N:29])[NH:24][C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:30]([CH3:31])=[O:32],water,298.15,19.010109472760025,-33.39725126119577
1359,1494,[Br:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[N+:17]#[C:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)=[N:17][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,15.825878729267034,-61.01351713348192
4397,5025,[C:10](#[N+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:11]=[C:10]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,16.515940095120257,-37.254402787880814
4849,5531,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[O:16][C:17]1([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,8.907667085945699,-46.02906666230557
4486,5119,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:17][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,13.95825020934149,-27.33377720159745
4008,4584,[CH3:6][NH:7][C:8](=[O:9])[C:10](=[NH+:11][CH-:12][C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[NH:19][CH3:20].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:17](=[O:18])[NH:19][CH3:20])[NH:11][CH:12]1[C:13](=[O:14])[O:15][CH3:16],water,298.15,45.49683134506389,24.33877854913069
4322,4943,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)=[N:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,18.754713688463053,-35.880559225030545
3857,4413,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]2([CH3:17])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[O:20][C:18]2=[O:19],water,298.15,24.21351689947544,-1.9768223405456589
